US04452789
Furan-3,4-dicarboxylic acid monoethyl ester
A solution of 235 gm of furan-3,4-dicarboxylic acid diethyl ester and 62.1 gm of potassium hydroxide in 800 ml of 60% ethanol was stirred for 2 hours at room temperature, and then the solvent was distilled off in vacuo. The residue was acidified by carefully adding an aqueous KHSO4 solution dropwise thereto, while stirring, and the monoester was extracted with methylene chloride and crystallized from ethyl acetate/petroleum ether.

reactant | furan-3,4-dicarboxylic acid diethyl ester | 235 gm | C(C)OC(=O)C1=COC=C1C(=O)OCC | C10H12O5
reactant | potassium hydroxide | 62.1 gm | [OH-].[K+]
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | Furan-3,4-dicarboxylic acid monoethyl ester | C(C)OC(=O)C1=COC=C1C(=O)O | C8H8O5
